US07989457B2
A solution of 5-(4,4,4-trifluoro-1-methoxymethylene-butyl)-2-(4-trifluoromethyl-phenyl)-pyridine (4.1 g, 10.9 mmol) and tetrahydrofuran (50 mL) is treated with concentrated hydrochloric acid (5 mL) and heated to reflux under nitrogen. The reaction is monitored by HPLC and allowed to cool upon completion. The solution is neutralized with 20% NaOH solution and diluted with diethyl ether. The two phases are separated and the organic layer washed with brine and water. The organic layer is dried over anhydrous sodium sulfate, filtered, and concentrated. Chromatography gives purified 5,5,5-trifluoro-2-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-pentanal (3.6 g, 10 mmol) 79% yield.

reactant | 5-(4,4,4-trifluoro-1-methoxymethylene-butyl)-2-(4-trifluoromethyl-phenyl)-pyridine | 10.9 mmol, 4.1 g | FC(CCC(=COC)C=1C=CC(=NC1)C1=CC=C(C=C1)C(F)(F)F)(F)F | C18H15F6NO
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 5 mL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5,5,5-trifluoro-2-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-pentanal | 10 mmol, 3.6 g, 79% yield | FC(CCC(C=O)C=1C=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)(F)F | C17H13F6NO
